US09101894B2
Into a piston front part (window side) in the variable-volume high-pressure cell, 0.143 g (0.386 mmol) of sodium isostearylsulfate (containing 13.9% of isostearyl alcohol as an impurity) obtained in Example 1 was charged and the apparatus was closed tightly, followed by drying the inside of the variable-volume high-pressure cell using a vacuum pump. Next, the temperature inside of the variable-volume high-pressure cell was set at 35° C. and into the piston front part of the variable-volume high-pressure cell, 20 g (sodium isostearylsulfate concentration (relative to carbon dioxide): 0.08% by mol) of carbon dioxide (manufactured by Nippon Ekitan Corporation; purity: 99.99% or more) was pressed. Then, the temperature inside of the variable-volume high-pressure cell was elevated to 75° C. and the pressure in the piston rear part of the variable-volume high-pressure cell was set to 37 MPa, followed by stirring the mixture in the variable-volume high-pressure cell to obtain a transparent and homogeneous sodium isostearylsulfate/carbon dioxide solution. Next, to the sodium isostearylsulfate/carbon dioxide solution, 40 μL of a 0.1% by weight sodium p-toluenesulfonate aqueous solution prepared by a method including: dissolving 0.0392 g of p-toluenesulfonic acid (manufactured by Wako Pure Chemical Industries, Ltd.) in 40 mL of water and neutralizing the resultant solution with sodium hydrogen carbonate (manufactured by Wako Pure Chemical Industries, Ltd.); utilizing a six-ports valve and a high pressure pump, was added as the marker solution and the resultant mixture was stirred. At the time when a homogeneous one liquid phase was obtained, an UV-Vis absorption spectrum was measured by a spectrophotometer (manufactured by Hitachi High-Technologies Corporation; U-2810) through a pressure resistant spectrum cell (manufactured by L. TEX Corporation; light path length: 10 mm) having a quartz window that was connected to the apparatus. By repeating the addition of 40 μL of a sodium p-toluenesulfonate aqueous solution, the stirring of the reaction mixture, and the measurement of the UV-Vis absorption spectrum, the data until W0=86.5 (W0c=71.5) were collected.

reactant | sodium isostearylsulfate | 0.386 mmol, 0.143 g | C(CCCCCCCCCCCCCCC(C)C)OS(=O)(=O)[O-].[Na+]
reactant | isostearyl alcohol | C(CCCCCCCCCCCCCCC(C)C)O | C18H38O
product | sodium isostearylsulfate carbon dioxide | C(CCCCCCCCCCCCCCC(C)C)OS(=O)(=O)[O-].[Na+].C(=O)=O | InChI=1S/C18H38O4S.CO2.Na/c1-18(2)16-14-12-10-8-6-4-3-5-7-9-11-13-15-17-22-23(19,20)21;2-1-3;/h18H,3-17H2,1-2H3,(H,19,20,21);;/q;;+1/p-1
